US06066641
d) 6-Amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-nitroso-uracil
15.81 nil of 4N sodium nitrite solution was added dropwise at 65°-70° C. over 8 minutes to a solution of 20.53 g of 1-(3-cyclopentyloxy-4-methoxy-benzyl) 6-amino uracil in 300 ml of acetic acid. After 30 minutes the suspension was cooled to room temperature and the solid collected and washed with water to give the title compound (19.36 g) as pink crystals. The filtrate was evaporated to dryness, the residue suspended in 100 ml of water and the solid collected to give 1.98 g as a second crop.

reactant | sodium nitrite | 4N | N(=O)[O-].[Na+]
reactant | 1-(3-cyclopentyloxy-4-methoxy-benzyl) 6-amino uracil | 20.53 g | C1(CCCC1)OC=1C=C(CN2C(=O)NC(=O)C=C2N)C=CC1OC | C17H21N3O4
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 6-Amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-nitroso-uracil | 19.36 g | NC1=C(C(NC(N1CC1=CC(=C(C=C1)OC)OC1CCCC1)=O)=O)N=O | C17H20N4O5
